US07645771B2
A mixture of 1-((1R,5S)-8-{2-[4-(3-chloro-5-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride (0.40 g, 0.78 mmol), triethylamine (0.35 mL, 2.5 mmol) and 4-chloro-3-sulfamoylbenzoic acid (184 mg, 0.78 mmol) in dimethylformamide (2.5 mL) was treated with O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (327 mg, 0.86 mmol) and the resulting mixture was stirred for 1 h at rt. The mixture was diluted with water and the resulting precipitate was collected, washed with saturated sodium bicarbonate solution and water, dried and purified by chromatography on silica gel eluting with a gradient of chloroform:methanol:ammonium hydroxide 400:15:1 to 200:15:1 to give 2-chloro-5-[(4-(3-chloro-5-fluoro phenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)carbonyl]benzenesulfonamide as a solid (0.20 g, 36%). 1H NMR (400 MHz, CD3OD) δ 8.09 (s, 1H), 7.67 (m, 1H), 7.60 (m, 1H), 7.51 (m, 1H), 7.42 (m, 1H) 7.30 (s, 1H), 7.10-7.21 (m, 4H), 4.72 (m, 1H), 4.06 (m, 1H), 3.57 (m, 1H), 3.47 (m, 1H), 3.30 (m, 3H), 2.52 (s, 3H), 2.40-2.48 (m, 4H), 2.27 (m, 1H), 2.14 (m, 1H), 1.83-2.04 (m, 10H), 1.70 (m, 2H). HRMS C35H38Cl2FN5O3S m/z 698.2134 (M+H)Cal., 698.2161 (M+H)Obs..

reactant | 1-((1R,5S)-8-{2-[4-(3-chloro-5-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride | 0.78 mmol, 0.40 g | Cl.Cl.ClC=1C=C(C=C(C1)F)C1(CCNCC1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C
reactant | triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-sulfamoylbenzoic acid | 0.78 mmol, 184 mg | ClC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C7H6ClNO4S
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.86 mmol, 327 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-chloro-5-[(4-(3-chloro-5-fluoro phenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)carbonyl]benzenesulfonamide | 0.20 g, 36% | ClC1=C(C=C(C=C1)C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC(=C1)F)Cl)S(=O)(=O)N | C35H38Cl2FN5O3S
